US04960946
A mixture of 1,1,4-trimethoxy-4-methylpentane (3.2 g, 0.018 mol), tetrahydrofuran (100 mL), water (10 mL) and oxalic acid (1.0 g, 0.022 mol) was heated at reflux for 40 hours. Workup provided 4-methoxy-4-methylpentanal (2.0 g).

reactant | 1,1,4-trimethoxy-4-methylpentane | 0.018 mol, 3.2 g | COC(CCC(C)(C)OC)OC | C9H20O3
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | oxalic acid | 0.022 mol, 1.0 g | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 10 mL | O | H2O
product | 4-methoxy-4-methylpentanal | 2.0 g | COC(CCC=O)(C)C | C7H14O2
